US07192982B2
To a solution of sodium bis(trimethylsilyl)amide 1N (0.8 mL, 0.8 mmol) in THF (4 mL), was added dropwise methyl methoxyacetate (0.066 mL, 0.66 mmol) at −78° C. After allowing the mixture to stir for 1 hour, 4-Benzyloxy-3-trifluoromethyl-benzaldehyde (185 mL, 0.66 mmol) was added dropwise. When the addition was finished the mixture was warmed to room temperature and stirred for 3 additional hours. Trifluoroacetic anhydride (0.28 mL, 1.98 mmol) was added and the mixture was stirred at room temperature for 4 hours. The solvent was evaporated and the residue dissolved in ethyl acetate (50 mL). 10% palladium on carbon (200 mg) was added to the solution and the mixture stirred under hydrogen pressure (5 atm) for 16 hours, filtered through a pad of celite and concentrated under vacuum. The residue was chromatographed (silica gel, hexanes/ethyl acetate 4:1) to produce 3-(4 hydroxy-3-trifluoromethyl-phenyl)-2-methoxy-acrylic acid methyl ester as a white solid (72 mg, 40%). 1H-NMR ((CD3)2CO, 200.15 MHz): δ 9.65 (b, 1H), 8.02 (d, 1H, J=1.8), 7.87 (dd, 1H, J=8.4, 1.8), 7.08 (d, 1H, J=8.4), 6.90 (s, 1H), 3.77 (s, 3H), 3.75 (s, 3H).

reactant | sodium bis(trimethylsilyl)amide | 0.8 mmol, 1N, 0.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl methoxyacetate | 0.66 mmol, 0.066 mL | COCC(=O)OC | C4H8O3
reactant | 4-Benzyloxy-3-trifluoromethyl-benzaldehyde | 0.66 mmol, 185 mL | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)C(F)(F)F | C15H11F3O2
reactant | Trifluoroacetic anhydride | 1.98 mmol, 0.28 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-(4 hydroxy-3-trifluoromethyl-phenyl)-2-methoxy-acrylic acid methyl ester | 72 mg, 40% | COC(C(=CC1=CC(=C(C=C1)O)C(F)(F)F)OC)=O | C12H11F3O4
